US09376422B2
Step 1: Synthesis of methyl 3,6-dichloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylate
To a stirred solution of methyl 3,4,6-trichloropyridine-2-carboxylate (600 mg, 2.50 mmol) in DMF (12 ml) was added TEA (696 μl, 4.99 mmol) followed by N-methyloxan-4-amine (287 mg, 2.50 mmol) and the reaction mixture was heated at 100° C. for 20 h. The reaction mixture was then cooled to room temperature and poured onto water (100 ml), followed by extraction of the product into EtOAc (3×100 ml), washing of the combined organics with brine (50 ml), drying with Na2SO4 and evaporation. The crude product was then purified over a 10 g silica Isolute column eluting with a gradient of 0% to 60% EtOAc in heptane to afford the title compound as a white solid (114 mg, 14%). LC-MS 100%, 1.91 min (3.5 minute LC-MS method), m/z=319.3/320.9, 1H NMR (500 MHz, Chloroform-d) δ 6.87 (s, 1H), 4.15-4.00 (m, 2H), 3.98 (s, 3H), 3.93-3.71 (m, 1H), 3.54-3.24 (m, 2H), 2.82 (s, 3H), 1.94 (dd, J=12.1, 4.7 Hz, 2H), 1.70 (d, J=10.2 Hz, 2H). (br. s., 4H) 1.48 (s, 9H)

reactant | methyl 3,4,6-trichloropyridine-2-carboxylate | 2.50 mmol, 600 mg | ClC=1C(=NC(=CC1Cl)Cl)C(=O)OC | C7H4Cl3NO2
reactant | N-methyloxan-4-amine | 2.50 mmol, 287 mg | CNC1CCOCC1 | C6H13NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | methyl 3,6-dichloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylate | 114 mg, 14% | ClC=1C(=NC(=CC1N(C1CCOCC1)C)Cl)C(=O)OC | C13H16Cl2N2O3
